US06699405B2
13.6 g (0.04 mol) of 3,4-di-(6-hydroxyhexyloxy)benzoic acid, 9.6 ml (0.06 mol) of N,N-diethylaniline and 100 mg of 2,6-di-tert-butyl-p-cresol as stabilizer are added to 150 ml of 1,4-dioxane and heated to 60° C. At 60° C., 6.9 ml (0.085 mol) of acryloyl chloride are added slowly such that the reaction temperature does not exceed 65° C. The reaction mixture is stirred for 2.5 h at 60° C. The solution is cooled to room temperature and poured onto ice water with stirring. A precipitate of 3,4-di-(6-acryloyloxyhexyloxy)benzoic acid is obtained which is separated by filtration, dried and recrystallized from 300 ml of isopropanol.

reactant | 3,4-di-(6-hydroxyhexyloxy)benzoic acid | 0.04 mol, 13.6 g | OCCCCCCOC=1C=C(C(=O)O)C=CC1OCCCCCCO | C19H30O6
reactant | N,N-diethylaniline | 0.06 mol, 9.6 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 2,6-di-tert-butyl-p-cresol | 100 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | acryloyl chloride | 0.085 mol, 6.9 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | 1,4-dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 3,4-di-(6-acryloyloxyhexyloxy)benzoic acid | C(C=C)(=O)OCCCCCCOC=1C=C(C(=O)O)C=CC1OCCCCCCOC(C=C)=O | C25H34O8
